US08426447B2
To a suspension of (R)-2-amino-7′-(3,6-dihydro-2H-pyran-4-yl)-3′-fluoro-5H-spiro[oxazole-4,9′-xanthen]-2′-ol (150 mg, 0.407 mmol) and n-phenyltrifluoromethanesulfonimide (218 mg, 0.611 mmol) in 15 mL of dry DCM was added TEA (142 μL, 1.018 mmol). After stirring at RT overnight the solution was evaporated to dryness and the residue was purified by silica gel chromatography (DCM to DCM/EA=4:1 to 3:1 to 2:1 to 1:1) to give (R)-2-amino-2′-(3,6-dihydro-2H-pyran-4-yl)-6′-fluoro-5H-spiro[oxazole-4,9′-xanthene]-7′-yl trifluoromethanesulfonate as a white solid.

reactant | (R)-2-amino-7′-(3,6-dihydro-2H-pyran-4-yl)-3′-fluoro-5H-spiro[oxazole-4,9′-xanthen]-2′-ol | 0.407 mmol, 150 mg | NC=1OC[C@]2(C3=CC(=CC=C3OC=3C=C(C(=CC23)O)F)C=2CCOCC2)N1 | C20H17FN2O4
reactant | n-phenyltrifluoromethanesulfonimide | 0.611 mmol, 218 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-amino-2′-(3,6-dihydro-2H-pyran-4-yl)-6′-fluoro-5H-spiro[oxazole-4,9′-xanthene]-7′-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=C2OC=3C=CC(=CC3[C@]3(C2=C1)N=C(OC3)N)C=3CCOCC3)F)(F)F | C21H16F4N2O6S
